US05498774
Synthesis of ethyl 3-formyl-2-phenyl-imidazo[1,2-a]pyridine-8-carboxylate (Compound No. 1 - 119)
To a solution of ethyl 2-phenyl-imidazo[1,2-a]-pyridine-8-carboxylate hydrogen bromide (14.7 g, 4 m mol) in DMF (8 ml) was dropwise added phosphorus oxychloride (2 ml) keeping the inner temperature to below 15° C. Then, the mixture was allowed to react at room temperature for 30 minutes and at 70° C. for 2 hours. After completion of the reaction, the reaction mixture was cooled, poured into ice water and adjusted to pH 7 by adding 20% sodium hydroxide. The precipitated crystals were collected by filtration and recrystallized from ethanol to obtain the object compound (1.0 g, yield 85.5%) as colorless crystals. m.p. 139° C.

reactant | ethyl 2-phenyl-imidazo[1,2-a]-pyridine-8-carboxylate hydrogen bromide | 14.7 g | Br.C1(=CC=CC=C1)C=1N=C2N(C=CC=C2C(=O)OCC)C1
reactant | phosphorus oxychloride | 2 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydroxide | [OH-].[Na+]
reactant | DMF | 8 ml | CN(C)C=O | C3H7NO
product | ethyl 3-formyl-2-phenyl-imidazo[1,2-a]pyridine-8-carboxylate | 1.0 g, yield 85.5% | C(=O)C1=C(N=C2N1C=CC=C2C(=O)OCC)C2=CC=CC=C2 | C17H14N2O3
